US06518282B1
2-(3-Bromopropyl)-1,3-dioxane
To a solution of 4-bromobutanal (prepared as described in J. Org. Chem., 1979, 44, 3230-3238: 450 mg, 2.98 mmol) in tetrahydrofuran (10 mL) at room temperature was added 1,3-propane diol (1.0 mL, 13.7 mmol) and p-toluenesulfonic acid monohydrate (50 mg, 0.26 mmol). The mixture was heated at reflux for 2 hours, cooled and suspended in a mixture of water and diethyl ether (200 mL of 1:1). The two layers were separated and the organic layer was dried over magnesium sulfate, filtered, and then concentrated in vacuo to give the title compound as a clear oil.

reactant | 4-bromobutanal | 2.98 mmol, 450 mg | BrCCCC=O | C4H7BrO
reactant | 1,3-propane diol | 13.7 mmol, 1.0 mL | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 0.26 mmol, 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-(3-Bromopropyl)-1,3-dioxane | BrCCCC1OCCCO1 | C7H13BrO2
